US04798620
A mixture of 4-carbamoylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one (2.24 g), toluene (20 ml), thionyl chloride (2.4 g) and N,N-dimethylformamide (3 drops) was stirred at a temperature of 90° C. to 100° C. for 2 hours. The solvent was distilled off from the mixture, and then methylisobutyl ketone (100 ml) was added thereto and the resulting mixed solution was filtered, the filtrate was washed with water, sodiumbicarbonate solution, and water, in that order, and subsequently dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give the desired 4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one (1.74 g). mp. 111°-113° C.

reactant | 4-carbamoylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 2.24 g | C(N)(=O)CN1C(COC2=C1C=CC(=C2)F)=O | C10H9FN2O3
reactant | thionyl chloride | 2.4 g | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 1.74 g | C(#N)CN1C(COC2=C1C=CC(=C2)F)=O | C10H7FN2O2
